US04777281
By carrying out the reaction as described in Example 4, Step B, except that the racemic 2-[(3,4-dichloro-6,7,8,8a,9,10-hexahydro-6-oxo-8a-propyl-2-phenanthrenyl)oxy]acetonitrile is replaced by an equal amount of (+)2-[(3,4-dichloro-6,7,8,8a,9,10-hexahydro-8a-propyl-2-phenanthrenyl)oxy]acetonitrile, there is obtained (+)2-[(3,4-dichloro-6,7,8,8a,9,10-hexahydro-6-oxo-8a-propyl-2-phenanthrenyl)oxy]ethanimidamide hydrochloride.

reactant | racemic 2-[(3,4-dichloro-6,7,8,8a,9,10-hexahydro-6-oxo-8a-propyl-2-phenanthrenyl)oxy]acetonitrile | ClC=1C(=CC=2CCC3(CCC(C=C3C2C1Cl)=O)CCC)OCC#N | C19H19Cl2NO2
reactant | (+)2-[(3,4-dichloro-6,7,8,8a,9,10-hexahydro-8a-propyl-2-phenanthrenyl)oxy]acetonitrile | ClC=1C(=CC=2CCC3(CCCC=C3C2C1Cl)CCC)OCC#N | C19H21Cl2NO
product | (+)2-[(3,4-dichloro-6,7,8,8a,9,10-hexahydro-6-oxo-8a-propyl-2-phenanthrenyl)oxy]ethanimidamide hydrochloride | Cl.ClC=1C(=CC=2CCC3(CCC(C=C3C2C1Cl)=O)CCC)OCC(N)=N | InChI=1S/C19H22Cl2N2O2.ClH/c1-2-5-19-6-3-11-8-14(25-10-15(22)23)17(20)18(21)16(11)13(19)9-12(24)4-7-19;/h8-9H,2-7,10H2,1H3,(H3,22,23);1H
